US07030196B2
A 10: 2,2,6,6-Tetramethyl-4-propoxypiperidin-1-yl 2,2-dimethylpropionate (110)
21.4 g (0.1 mol) of 4-propoxy-2,2,6,6-tetramethylpiperidine N-oxide (for preparation, see DE-A-4 219 459) are hydrogenated to saturation at 4 bar in 20 ml of toluene using 0.05 g of platinum (10% on carbon). The catalyst is filtered off and 13 g (0.108 mol) of pivaloyl chloride are slowly added dropwise to the colourless filtrate under nitrogen. After the slightly exothermic reaction has abated, the mixture is stirred for another 1 hour at room temperature and diluted with 20 ml of water. The organic phase is washed with 4% NaOH solution, dried over MgSO4 and freed of the toluene on a rotary evaporator. This gives 13.5 g (45%) of the compound 110 which is in the form of a colourless oil.

reactant | 4-propoxy-2,2,6,6-tetramethylpiperidine N-oxide | 0.1 mol, 21.4 g | C(CC)OC1CC([NH+](C(C1)(C)C)[O-])(C)C | C12H25NO2
reactant | pivaloyl chloride | 0.108 mol, 13 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | toluene | 20 ml, 0.05 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
catalyst | platinum | [Pt] | Pt
product | 2,2,6,6-Tetramethyl-4-propoxypiperidin-1-yl 2,2-dimethylpropionate | CC(C(=O)ON1C(CC(CC1(C)C)OCCC)(C)C)(C)C | C17H33NO3
